US04837121
2,6-Bis(Hydroxymethyl)-p-Cresol/4-Chlororesorcinol Novolak (1:0.65 Mole Ratio)
2,6-Bis(hydroxymethyl)-p-cresol (25.00 g, 0.149 moles), 4-chlororesorcinol (13.96 g, 0.09 moles) and p-toluenesulfonic acid monohydrate (0.67 g, 0.0035 moles) were reacted four hours and isolated as described in Synthesis Example 3 to yield 35 g of novolak. See Tables 1 and 2 for glass transition and alkaline dissolution data. The ortho-, ortho-linkages of the alternating copolymers and the terminal groups were identified by 13C NMR analysis.

reactant | 2,6-Bis(hydroxymethyl)-p-cresol | 0.149 moles, 25.00 g | OCC1=CC(=CC(=C1O)CO)C | C9H12O3
reactant | 4-chlororesorcinol | 0.09 moles, 13.96 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | p-toluenesulfonic acid monohydrate | 0.0035 moles, 0.67 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2,6-Bis(Hydroxymethyl)-p-Cresol 4-Chlororesorcinol | OCC1=CC(=CC(=C1O)CO)C.ClC1=C(C=C(O)C=C1)O | InChI=1S/C9H12O3.C6H5ClO2/c1-6-2-7(4-10)9(12)8(3-6)5-11;7-5-2-1-4(8)3-6(5)9/h2-3,10-12H,4-5H2,1H3;1-3,8-9H
